Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
kidney abscess
 
Major Surgical or Invasive Procedure:
___ line placed ___

 
History of Present Illness:
Pt is a ___ yo F presents to the ER by pcp, ___ 
(___) due to flank pain and u/s c/w Rt kidney abscess. 
Initially (___) pt had UA that was positive, treated with 
Bactrim, but changed by pcp ___ ___ to Cipro, which she 
completed a 7 day course for. Initially felt better, but on 
___ began to have abdominal pain and chills despite a neg 
urine. Sent for u/s where abscess was found.  

ROS: + f/c + nausea, otherwise negative

In ED: 100.1 84 88/50 18 99%RA
blood pressure responded to IVFs up to systolics 120-130s
Abdominal CT w/ & w/o showed a superior pole abcsess

17:01 Ondansetron 2mg/mL-2mL 1 
18:24 Acetaminophen 500 mg Tablet 2 
18:25 CeftriaXONE 1g x 1 
19:23 Morphine Sulfate 2mg IV x 2
IVFs x 3L
 
Past Medical History:
depression

NKDA
 
Social History:
___
Family History:
noncontributory
father is a ___
 
___:
100.8 120/78 90 16 100%RA

GEN: Alert and oriented to person, place and situation; no 
apperent distress
HEENT: no trauma, pupils round and reactive to light and 
accomodation, no LAD, oropharynx clear, no exudates
CV: regular rate and rhythm, no murmurs/gallops/rubs
PULM: clear to auscultation bilaterally, no 
rales/crackles/rhonchi
GI: soft, appropriately tender, non-distended
EXT: no clubbing/cyanosis/edema; 2+ distal pulses
DERM: no lesions appreciated
.
Discharge:
afebrile 120/70  67  16  98RA

 
Pertinent Results:
___ 04:50PM   WBC-9.1 RBC-4.20 HGB-13.2 HCT-38.8 MCV-92 
MCH-31.4 MCHC-34.0 RDW-12.7
___ 04:50PM   NEUTS-65.8 ___ MONOS-6.9 EOS-0.4 
BASOS-0.6
___ 04:50PM   PLT COUNT-234
___ 04:55PM   LACTATE-1.3
___ 05:43PM   K+-3.5
___ 07:20PM URINE  UCG-NEGATIVE
___ 07:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:50PM   GLUCOSE-80 UREA N-14 CREAT-0.8 SODIUM-132* 
POTASSIUM-6.8* CHLORIDE-97 TOTAL CO2-26 ANION GAP-16
.
___ 05:45AM BLOOD WBC-6.5 RBC-4.00* Hgb-12.9 Hct-37.6 
MCV-94 MCH-32.4* MCHC-34.4 RDW-12.2 Plt ___
___ 05:45AM BLOOD Glucose-79 UreaN-8 Creat-0.8 Na-139 K-4.0 
Cl-100 HCO3-29 AnGap-14
___ 04:44PM URINE Color-Yellow Appear-Hazy Sp ___
___ 04:44PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 04:44PM URINE RBC-2 WBC-2 Bacteri-FEW Yeast-NONE Epi-23 
TransE-<1
.
___ Abdominal/pelvic CT w/ & w/o IMPRESSION: Left renal 
superior pole abscess measuring up to 2 cm with associated focal 
nephronia. 
.
___ Renal US IMPRESSION: Slightly smaller upper pole left renal 
abscess. No other abnormality. 

___ URINE URINE CULTURE-FINAL {YEAST} INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ URINE URINE CULTURE-MIXED BACTERIAL FLORA ( 
>= 3 COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 
___ BLOOD CULTURE Blood Culture, 
Routine-PRELIMINARY {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; 
Aerobic Bottle Gram Stain-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
Brief Hospital Course:
___ y/o F who presented to her PCP with ___ fevers and 
intermittent flank pain over the last several days associated 
with dysuria. She had a urinary tract infection approximately 2 
weeks prior treated with a course of Bactrim which was then 
switched to Keflex. She had persistent symptoms of n/v/f and saw 
her PCP who got an ultrasound of her kidneys which demonstrated 
an abscess on her left kidney.  
.  
.  
# Renal abscess, d/t UTI vs hematogenous spread  
Pt was evaluated by Urology and Infectious Disease. Because the 
abscess was <3cm, it was decided to pursue medical management 
with IV antibiotics without a procedure to drain the abscess.  
Unfortunately, all cultures were contaminated with mixed flora, 
thus there is not reliable culture data to guide narrowing of 
antibiotic choice. Pt was treated with IV cefepime per ID 
recommendations, and she will be discharged on IV cefepime with 
plans for ID follow up with repeat renal ultrasounds to guide 
duration of therapy.  ID is expecting a course fo ___ weeks of 
IV antibiotics.  PICC line was placed ___.  
.  
# CoNS blood culture; contaminant 
A blood culture returned with CoNS, which was initially 
concerning, however, this was determined to be a contaminant.  
CoNS is very rarely a cause of renal abscess, and thus not 
thought to represent a true infection. Repeat blood cultures 
remain pending at the time of discharge.  Note that the blood 
culture was only positive in one set. Micro sensitivities 
reported in OMR.
.  
Patient was discharged to home with home IV Abx. 
.  
Disp: to home with home IV antibiotics 

 
Medications on Admission:
Paxil C.R. 37.5 mg daily

 
Discharge Medications:
1. Paxil CR 37.5 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
2. Cefepime 1 gram Recon Soln Sig: One (1) Recon Soln Injection 
Q12H (every 12 hours) for 4 weeks: (final duration to be 
determined by ID follow up).
Disp:*56 Recon Soln(s)* Refills:*0*
3. Outpatient Lab Work
CBC with Diff, BUN/Cr, LFT's, Q WEEK. Please fax results to: ID 
Clinic at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Left renal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fevers, chills, and back pain, and were 
found to have a left kidney abscess.  You were treated with 
antibiotics and evaluated by Urology and Infectious Disease.  
You are being treated with IV antibiotics, which you will 
receive at home, and you will follow up with Infectious Disease 
department after discharge.
 
Followup Instructions:
___